US08334305B2
3-(2-Pyridin-2-yl-ethoxy)-benzoic acid
Prepared from 2-(2-hydroxyethyl)pyridine and ethyl 3-hydroxybenzoate. LC-MS (m/z): 245 (M+1).

reactant | 2-(2-hydroxyethyl)pyridine | OCCC1=NC=CC=C1 | C7H9NO
reactant | ethyl 3-hydroxybenzoate | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
product | 3-(2-Pyridin-2-yl-ethoxy)-benzoic acid | N1=C(C=CC=C1)CCOC=1C=C(C(=O)O)C=CC1 | C14H13NO3
